US06093737
Step 2: 4-Hydroxymethyl-1-(3-chlorophenyl)-1H-pyridin-2-one
To a solution of 4-(tert-butyl-dimethyl-silanyloxymethyl)-1-(3-chlorophenyl)-1H-pyridin-2-one (5.11 g, 14.6 mmol) in acetonitrile (75 ml) in a teflon beaker was added hydrogen fluoride-pyridine (2.5 ml, 87.5 mmol) and stirred for 3 hours. The reaction mixture was neutrallized with solid and aqueous sodium dicarbonate and then the solvent evaporated in vacuo. The resulting solid residue was extracted with EtOAc, dried (MgSO4), filtered and the solvent was evaporated in vacuo. This residue was chromatographed (silica gel, 80-100% EtOAc:hexane gradient elution) to afford the title compound.

reactant | 4-(tert-butyl-dimethyl-silanyloxymethyl)-1-(3-chlorophenyl)-1H-pyridin-2-one | 14.6 mmol, 5.11 g | C(C)(C)(C)[SiH2]OC(C1=CC(N(C=C1)C1=CC(=CC=C1)Cl)=O)(C)C | C18H24ClNO2Si
reactant | hydrogen fluoride-pyridine | 87.5 mmol, 2.5 ml | N1=CC=CC=C1.F
reactant | sodium dicarbonate | C(=O)([O-])OC(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 4-Hydroxymethyl-1-(3-chlorophenyl)-1H-pyridin-2-one | OCC1=CC(N(C=C1)C1=CC(=CC=C1)Cl)=O | C12H10ClNO2
